US07662964B2
[1,4′]bipiperidinyl-1′-carbonyl chloride
[1,4′]bipiperidinyl-1′-carbonyl chloride hydrochloride (9.7 g), methylene chloride (150 ml) and K2CO3 (10.5 g, 2.1 ekv) were charged. The mixture was stirred for about 1 hour. The solution was filtered and the cake washed with 10 ml of methylene chloride. The solution (containing 8.4 g of [1,4′]bipiperidinyl-1′-carbonyl chloride) can be used as such for the preparation of Irinotecan

reactant | [1,4′]bipiperidinyl-1′-carbonyl chloride hydrochloride | 9.7 g | Cl.N1(CCCCC1)C1CCN(CC1)C(=O)Cl
reactant | K2CO3 | 10.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | [1,4′]bipiperidinyl-1′-carbonyl chloride | N1(CCCCC1)C1CCN(CC1)C(=O)Cl | C11H19ClN2O
